US08426411B2
To the suspension of sodium hydride (60% dispersion in mineral oil, 0.382 g, 9.55 mmol) in DMF (50 mL) was added drop-wise a solution of N,N-dibenzyl-3-(3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazin-8-yl)-4-methylcyclopentanamine (3.96 g, 9.09 mmol) in DMF (50 mL) at 0° C. The resulting solution was stirred at ambient temperature for about 10 min. SEM chloride (1.774 mL, 10.0 mmol) was added drop-wise and the solution was stirred for about 1 h. The solvent was removed under reduced pressure and the residue was partitioned between water and EtOAc (200 mL each). The organic layer was washed with brine (100 mL), dried over anhydrous MgSO4, filtered and concd. The residue was purified by silica gel chromatography eluting with 10-80% EtOAc in DCM to yield N,N-dibenzyl-3-methyl-4-(3-((2-(trimethylsilyl)ethoxy)methyl)-3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazin-8-yl)cyclopentanamine (3.1 g, 60% yield) as an off-white amorphous solid. LC/MS (Table 1, Method a) Rt=3.32 min; MS m/z 566 (M+H)+.

reactant | sodium hydride | 9.55 mmol, 0.382 g | [H-].[Na+]
reactant | N,N-dibenzyl-3-(3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazin-8-yl)-4-methylcyclopentanamine | 9.09 mmol, 3.96 g | C(C1=CC=CC=C1)N(C1CC(C(C1)C)C1=CN=C2N1C1=C(N=C2)NC=C1)CC1=CC=CC=C1 | C28H29N5
reactant | SEM chloride | 10.0 mmol, 1.774 mL | C[Si](C)(C)CCOCCl | C6H15ClOSi
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | N,N-dibenzyl-3-methyl-4-(3-((2-(trimethylsilyl)ethoxy)methyl)-3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazin-8-yl)cyclopentanamine | 3.1 g, 60% yield | C(C1=CC=CC=C1)N(C1CC(C(C1)C1=CN=C2N1C1=C(N=C2)N(C=C1)COCC[Si](C)(C)C)C)CC1=CC=CC=C1 | C34H43N5OSi
